US06114390
e) 2,3-Dihydro-2-(phenylmethyl)-1H-isoindole-5-ylmethanamine
Prepared analogously to Example 45b) from 2,3-dihydro-2-(phenylmethyl)-1H-isoindole-5-carboxamide by reduction with lithium aluminium hydride. The desired compound was obtained as a colourless oil in a yield of 74% of theory.

reactant | 2,3-dihydro-2-(phenylmethyl)-1H-isoindole-5-carboxamide | C1(=CC=CC=C1)CN1CC2=CC=C(C=C2C1)C(=O)N | C16H16N2O
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2,3-Dihydro-2-(phenylmethyl)-1H-isoindole-5-ylmethanamine | yield of 74% | C1(=CC=CC=C1)CN1CC2=CC=C(C=C2C1)CN | C16H18N2
